US07144899B2
Step C. N2-(tert-butoxycarbonyl)-N1-[(1S)-1-({[5-chloro-2-(1H-tetraazol-1-yl)benzyl]amino}carbonyl)propyl]-4-methyl-D-leucinamide
A mixture of Boc-D-tert-butyl-alanine (74 mg, 0.30 mmol), (2S)-2-amino-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]butanamide (99 mg, 0.30 mmol), HOAt (41 mg, 0.30 mmol), EDC (86 mg, 0.45 mmol), and Et3N (42 μL, 0.30 mmol) in DMF (1.0 mL) was stirred at rt overnight. A small amount of MeOH was added to aid in dissolution. Solvent was removed in vacuo to give the title compound, which was carried on directly to deprotection. LCMS (M+H): 522.0.

reactant | Boc-D-tert-butyl-alanine | 0.30 mmol, 74 mg | C(=O)(OC(C)(C)C)N[C@H](CC(C)(C)C)C(=O)O | C12H23NO4
reactant | (2S)-2-amino-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]butanamide | 0.30 mmol, 99 mg | N[C@H](C(=O)NCC1=C(C=CC(=C1)Cl)N1N=NN=C1)CC | C12H15ClN6O
reactant | HOAt | 0.30 mmol, 41 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.45 mmol, 86 mg
reactant | Et3N | 0.30 mmol, 42 μL | CCN(CC)CC | C6H15N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | N2-(tert-butoxycarbonyl)-N1-[(1S)-1-({[5-chloro-2-(1H-tetraazol-1-yl)benzyl]amino}carbonyl)propyl]-4-methyl-D-leucinamide | C(C)(C)(C)OC(=O)N[C@H](CC(C)(C)C)C(=O)N[C@@H](CC)C(=O)NCC1=C(C=CC(=C1)Cl)N1N=NN=C1 | C24H36ClN7O4
